US04395406
1,4-Dimethyl-5-chloropyrimid-2-one
A solution of the sodium salt of 4-methyl-5-chloropyrimid-2-one (0.005 mol) and methyl iodide (0.0055 mol) in abs. ethanol (70 ml) was heated under reflux until ca. neutral pH. Another 0.005 mol of potassium hydroxide and methyl iodide were added and the heating continued to ca. neutral pH. The reaction mixture was then filtered and the filtrate evaporated to dryness. The residual material was repeatedly extracted with chloroform and the chloroform extracts evaporated and the solid extract recrystallised from isopropanol; yield 35%, m.p. 132°-134° C. (Found: C, 45.51; H, 4.51. Calc. for C6H7ClN2O: C, 45.44; H, 4.43).

reactant | sodium | [Na] | Na
reactant | 4-methyl-5-chloropyrimid-2-one | 0.005 mol | CC1=NC(NC=C1Cl)=O | C5H5ClN2O
reactant | methyl iodide | 0.0055 mol | CI | CH3I
reactant | potassium hydroxide | 0.005 mol | [OH-].[K+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 1,4-Dimethyl-5-chloropyrimid-2-one | yield 35% | CN1C(N=C(C(=C1)Cl)C)=O | C6H7ClN2O
